US04065584
a. 5-Bromo-1-phenylthiopentane
A solution of 20 ml (0.2 mol) of thiophenol and 50.6 g (0.22 mol) of 1,5-dibromopentane in 200 ml of ethanol is heated to 40° C whilst stirring and 40 ml (0.2 mol) of 5N NaOH are added dropwise. Thereafter the mixture is stirred for 2 hours and after standing overnight the alcohol is evaporated in vacuo, the residue is extracted with methylene chloride and the extract is washed 3 to 4 times with water, dried and evaporated. A yellow oil is obtained in quantitative yield.

reactant | thiophenol | 0.2 mol, 20 ml | C1(=CC=CC=C1)S | C6H6S
reactant | 1,5-dibromopentane | 0.22 mol, 50.6 g | BrCCCCCBr | C5H10Br2
reactant | NaOH | 0.2 mol, 5N, 40 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-Bromo-1-phenylthiopentane | quantitative yield | BrCCCCCSC1=CC=CC=C1 | C11H15BrS
